US05739129
N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-(1,3,5-trimethyl-1H-pyrazol-ylamino)-phenylamino]-acetamide
To a solution of N-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-benzene-1,2-diamine (7.56 g, 35.0 mmol) and 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (7.18 g, 38.5 mmol) in DMF (70 mL) was added potassium carbonate (14.5 g, 105 mmol) and potassium iodide (581 mg, 3.5 mmol). The solution was heated at 80° C. for 15 h and subsequently poured into DCM (100 mL). The mixture was extracted with H2O (×4), 1N HCl (×2) and brine, dried over MgSO4 and concentrated in vacuo. The resulting foam was purified by trituration with Et2O to yield the title compound (11.9 g):

reactant | N-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-benzene-1,2-diamine | 35.0 mmol, 7.56 g | CN1N=C(C(=C1C)NC=1C(=CC=CC1)N)C | C12H16N4
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 38.5 mmol, 7.18 g | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
reactant | potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.5 mmol, 581 mg | [I-].[K+]
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-(1,3,5-trimethyl-1H-pyrazol-ylamino)-phenylamino]-acetamide | 11.9 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC=1C(=NN(C1C)C)C)=O)C1=CC=C(C=C1)OC | C24H31N5O2
